US07691882B2
1-Benzylsulfanyl-4-(2-nitro-ethyl)-benzene
To a solution of 1-benzylsulfanyl-4-((E)-2-nitro-vinyl)-benzene (950 mg, 3.5 mmol) described in Manufacturing Example 205-1-3 in acetic acid (0.6 mL) and dimethyl sulfoxide (10 mL) was added sodium borohydride (212 mg, 5.6 mmol) while the internal temperature was held at 30° C. or lower, which was stirred for 30 minutes at room temperature. The mixture was cooled with ice water, water was added, which was stirred for another 30 minutes. This mixture was partitioned into ethyl acetate and water. The organic layer was separated, washed with water, dried over anhydrous magnesium sulfate, and filtered. The filtrate was concentrated under a reduced pressure to obtain the title compound (936 mg). The title compound was used in the following reaction without any further purification.

reactant | 1-benzylsulfanyl-4-((E)-2-nitro-vinyl)-benzene | 3.5 mmol, 950 mg | C(C1=CC=CC=C1)SC1=CC=C(C=C1)\C=C\[N+](=O)[O-] | C15H13NO2S
reactant | dimethyl sulfoxide | 10 mL | CS(=O)C | C2H6OS
reactant | sodium borohydride | 5.6 mmol, 212 mg | [BH4-].[Na+]
reactant | water | O | H2O
solvent | acetic acid | 0.6 mL | C(C)(=O)O | C2H4O2
product | 1-Benzylsulfanyl-4-(2-nitro-ethyl)-benzene | 936 mg | C(C1=CC=CC=C1)SC1=CC=C(C=C1)CC[N+](=O)[O-] | C15H15NO2S
